US04437880
A solution of 3-(3-phenyl-1-propenyl)aniline (3.6 g) in 50 ml of ethanol was subjected to catalytic reduction using 1 g of 10% palladium-carbon. After removal of the catalyst by filtration, the solvent was removed under reduced pressure. The residue was distilled under reduced pressure to give 3.3 g of 3-(3-phenylpropyl)aniline (yield, 92%). B.P. 122°-126° C./0.08 mmHg.

reactant | 3-(3-phenyl-1-propenyl)aniline | 3.6 g | C1(=CC=CC=C1)CC=CC=1C=C(N)C=CC1 | C15H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1 g | [C].[Pd]
product | 3-(3-phenylpropyl)aniline | 3.3 g, 92% | C1(=CC=CC=C1)CCCC=1C=C(N)C=CC1 | C15H17N
